US08865712B2
b) 3-Amino-5-(2-methoxy-ethylamino)-6-trimethylsilanylethynyl-pyrazine-2-carboxylic acid methyl ester
To a solution of ethynyl-trimethyl-silane (1.05 g, 10.7 mmol), bis(triphenylphosphine)palladium(II) chloride (150 mg, 0.214 mmol), Copper(I) iodide (41 mg, 0.214 mmol) and NEt3 (2.09 ml, 14.98 mmol) in THF (17 ml) was added under an argon atmosphere a mixture (about 1:1) of 3-amino-6-bromo-5-(2-methoxy-ethylamino)-pyrazine-2-carboxylic acid methyl ester and 3-amino-6-chloro-5-(2-methoxy-ethylamino)-pyrazine-2-carboxylic acid methyl ester (651 mg, 2.14 mmol) and the mixture was heated to 80° C. for 17 h. The reaction mixture was filtered through Hyflo and the solvent evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 60:40) to provide the title compound as brown solid.

reactant | ethynyl-trimethyl-silane | 10.7 mmol, 1.05 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | NEt3 | 14.98 mmol, 2.09 ml | CCN(CC)CC | C6H15N
reactant | 3-amino-6-bromo-5-(2-methoxy-ethylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1N)NCCOC)Br | C9H13BrN4O3
reactant | 3-amino-6-chloro-5-(2-methoxy-ethylamino)-pyrazine-2-carboxylic acid methyl ester | 2.14 mmol, 651 mg | COC(=O)C1=NC(=C(N=C1N)NCCOC)Cl | C9H13ClN4O3
solvent | THF | 17 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.214 mmol, 150 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Copper(I) iodide | 0.214 mmol, 41 mg | [Cu]I
product | 3-Amino-5-(2-methoxy-ethylamino)-6-trimethylsilanylethynyl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1N)NCCOC)C#C[Si](C)(C)C | C14H22N4O3Si
